US07491716B2
N-[2,4-dimethoxybenzyl]-N-[indol-7-ylmethyl]-2-bromopropionamide
Add 2-bromopropionyl chloride (3.25 g, 18.96 mmol) to a solution of N-[(indol-7-yl)methyl]-2,4-dimethoxybenzylamine (5.0 g, 17.24 mmol) and triethylamine (3.49 g, 64.48 mmol) in tetrahydrofuran (100 ml). Stir for 1 hour at room temperature and quench with saturated aqueous sodium bicarbonate. Extract with ethyl acetate, concentrate under reduced pressure, and subject the residue to silica gel chromatography eluting with 1:1 ethyl acetate:hexanes to provide the desired compound (4.72 g, 63%).

reactant | 2-bromopropionyl chloride | 18.96 mmol, 3.25 g | BrC(C(=O)Cl)C | C3H4BrClO
reactant | N-[(indol-7-yl)methyl]-2,4-dimethoxybenzylamine | 17.24 mmol, 5.0 g | N1C=CC2=CC=CC(=C12)CNCC1=C(C=C(C=C1)OC)OC | C18H20N2O2
reactant | triethylamine | 64.48 mmol, 3.49 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-[2,4-dimethoxybenzyl]-N-[indol-7-ylmethyl]-2-bromopropionamide | 4.72 g, 63% | COC1=C(CN(C(C(C)Br)=O)CC=2C=CC=C3C=CNC23)C=CC(=C1)OC | C21H23BrN2O3
